US20010021718A1
(3R)-6-Cyclohexyl-3-[3-(3-ethoxy-3-oxopropyl)-1,2,4-oxadiazol-5-yl]hexanoic acid
A solution of 1-tert-butyl 3-ethyl 2-({5-[(1R)-1-(2-tert-butoxy-2-oxoethyl)-4-cyclohexylbutyl]-1,2,4-oxadiazol-3-yl}methyl)malonate (Preparation 93) (510 mg, 0.79 mmol) in dichloromethane (10 ml) was treated with trifluoroacetic acid (5 ml) and stirred at room temperature for 5 hours. The solvent was removed under reduced pressure and the residue azeotroped from toluene. The solid was dissolved in xylene (10 ml) and heated at 140° C. for 7 hours. The solvent was removed under reduced pressure. The oil was purified by column chromatography on silica gel eluting with a gradient system of 95:5:0 (dichloromethane:isopropyl alcohol:acetic acid) gradually changing to 90:10:1 (dichloromethane:isopropyl alcohol:acetic acid) to afford the title compound as a colourless oil (117 mg).

reactant | 1-tert-butyl 3-ethyl 2-({5-[(1R)-1-(2-tert-butoxy-2-oxoethyl)-4-cyclohexylbutyl]-1,2,4-oxadiazol-3-yl}methyl)malonate | 0.79 mmol, 510 mg | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)CC(C(=O)OC(C)(C)C)C(=O)OCC)=O | C28H46N2O7
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (3R)-6-Cyclohexyl-3-[3-(3-ethoxy-3-oxopropyl)-1,2,4-oxadiazol-5-yl]hexanoic acid | 117 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)CCC(=O)OCC | C19H30N2O5
